data/polar.json
{"reaction_name": "Sharpless asymmetric dihydroxylation", "rsmi": "[O:3]=[Os:8](=[O:4])(=[O:9])=[O:10].[O:11]([H:6])[H:12].[O:13]([H:7])[H:14].[CH2:1]=[CH:2][CH3:5]>>[CH2:1]([CH:2]([O:3][H:6])[CH3:5])[O:4][H:7].[O:9]=[Os:8](=[O:10])([O:11][H:12])[O:13][H:14]", "epd": [["Pi-/Sigma+", [1, 2], [1, 4]], ["Sigma-/Sigma+", [3, 8], [2, 3]], ["Pi-/Sigma+", [3, 8], [3, 6]], ["Sigma-/Sigma+", [4, 8], [4, 7]], ["Pi-/LP+", [4, 8], [8]], ["Sigma-/Sigma+", [6, 11], [8, 11]], ["Sigma-/Sigma+", [7, 13], [8, 13]]]}
{"reaction_name": "Phosphoryl chloride substitution", "rsmi": "[Cl:1][P:5]([Cl:2])([Cl:3])=[O:6].[O:4]([CH3:7])[H:8]>>[Cl:1][P:5]([Cl:2])([O:4][CH3:7])=[O:6].[Cl:3][H:8]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Pi-/LP+", [6, 5], [6]], ["LP-/Pi+", [6], [6, 5]], ["Sigma-/LP+", [3, 5], [3]], ["LP-/Sigma+", [3], [3, 8]], ["Sigma-/LP+", [4, 8], [4]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:2][c:21]([CH3:19])[cH:8][c:22]([CH3:20])[cH:3]1.[cH:4]1[c:9]([CH+:25][c:10]2[cH:5][c:13]([F:17])[cH:24][c:14]([F:18])[cH:6]2)[cH:7][c:11]([F:15])[cH:23][c:12]1[F:16]>>[CH:1]1=[CH:3][C:22]([CH3:20])=[CH:8][C+:21]([CH3:19])[CH:2]1[CH:25]([c:9]1[cH:4][c:12]([F:16])[cH:23][c:11]([F:15])[cH:7]1)[c:10]1[cH:5][c:13]([F:17])[cH:24][c:14]([F:18])[cH:6]1", "epd": [["Pi-/Sigma+", [1, 2], [2, 25]], ["Pi-/Pi+", [3, 22], [1, 3]], ["Pi-/Pi+", [8, 21], [8, 22]]]}
{"reaction_name": "Alcohol protonation / deprotonation", "rsmi": "[H-:4].[Na+:2].[O:1]([H:3])[CH3:5]>>[H:3][H:4].[Na+:2].[O-:1][CH3:5]", "epd": [["LP-/Sigma+", [4], [3, 4]], ["Sigma-/LP+", [1, 3], [1]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:14])([O:31][CH2:3][c:12]1[cH:16][cH:5][cH:9][cH:8][cH:19]1)[N:35]=[N:34][C:2](=[O:15])[O:32][CH2:4][c:13]1[cH:17][cH:6][cH:10][cH:7][cH:18]1.[cH:11]1[cH:25][cH:20][c:30]([C:27](=[C:22]2[N:23]([CH3:37])[C:28]([CH3:36])=[C:39]([CH3:38])[S:29]2)[O:33][CH3:24])[cH:21][cH:26]1>>[C:1]([O-:14])([O:31][CH2:3][c:12]1[cH:16][cH:5][cH:9][cH:8][cH:19]1)=[N:35][N:34]([C:2](=[O:15])[O:32][CH2:4][c:13]1[cH:17][cH:6][cH:10][cH:7][cH:18]1)[C:27]([c:22]1[n+:23]([CH3:37])[c:28]([CH3:36])[c:39]([CH3:38])[s:29]1)([c:30]1[cH:20][cH:25][cH:11][cH:26][cH:21]1)[O:33][CH3:24]", "epd": [["LP-/Pi+", [23], [22, 23]], ["Pi-/Sigma+", [27, 22], [27, 34]], ["Pi-/Pi+", [34, 35], [35, 1]], ["Pi-/LP+", [1, 14], [14]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH:1]([C:14](=[O:17])[c:21]1[cH:6][cH:29][c:20]([N:28]([CH3:23])[CH3:24])[cH:30][cH:7]1)=[S:31]([CH3:8])[CH3:9].[cH:2]1[cH:3][cH:16][cH:5][c:10]2[c:4]1[N+:25]([CH3:12])=[CH:15][C:13]2=[CH:11][c:22]1[cH:18][cH:26][cH:32][cH:27][cH:19]1>>[CH:1]([CH:11]([c:13]1[c:10]2[c:4]([cH:2][cH:3][cH:16][cH:5]2)[n:25]([CH3:12])[cH:15]1)[c:22]1[cH:18][cH:26][cH:32][cH:27][cH:19]1)([C:14](=[O:17])[c:21]1[cH:6][cH:29][c:20]([N:28]([CH3:23])[CH3:24])[cH:30][cH:7]1)[S+:31]([CH3:8])[CH3:9]", "epd": [["Pi-/Sigma+", [1, 31], [1, 11]], ["Pi-/Pi+", [11, 13], [13, 15]], ["Pi-/LP+", [15, 25], [25]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[O:4]=[N+:19]([O-:10])[c:15]1[cH:5][cH:7][c:11]([CH:16]=[CH:13][N+:14]([O-:18])=[O:20])[cH:8][cH:6]1.[cH:1]1[n:2][c:12]([O-:9])[cH:21][cH:3][cH:17]1>>[cH:1]1[n:2]([CH:16]([c:11]2[cH:7][cH:5][c:15]([N+:19](=[O:4])[O-:10])[cH:6][cH:8]2)[CH:13]=[N+:14]([O-:18])[O-:20])[c:12](=[O:9])[cH:21][cH:3][cH:17]1", "epd": [["Pi-/Sigma+", [1, 2], [2, 16]], ["LP-/Pi+", [9], [9, 12]], ["Pi-/Pi+", [13, 16], [13, 14]], ["Pi-/Pi+", [3, 17], [1, 17]], ["Pi-/LP+", [14, 20], [20]], ["Pi-/Pi+", [12, 21], [3, 21]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[C:1]1(=[O:3])[N-:2][CH2:7][CH2:8][O:5]1.[CH:4](=[O+:14][CH3:13])[c:15]1[cH:11][cH:9][cH:6][cH:10][cH:12]1>>[C:1]1(=[O:3])[N:2]([CH:4]([O:14][CH3:13])[c:15]2[cH:11][cH:9][cH:6][cH:10][cH:12]2)[CH2:7][CH2:8][O:5]1", "epd": [["LP-/Sigma+", [2], [2, 4]], ["Pi-/LP+", [4, 14], [14]]]}
{"reaction_name": "Knoevenagel–Michael–cyclization sequence", "rsmi": "[O:1]([H:15])[c:2]1[cH:3][cH:4][cH:5][cH:6][c:7]1[C:8]([H:16])=[O:9].[N:10]#[C:11][C:12]([H:17])([H:18])[C:13]#[N:14]>>[N:14]([H:15])=[C:13]1[O:1][c:2]2[cH:3][cH:4][cH:5][cH:6][c:7]2[C:8]([H:16])=[C:12]1[C:11]#[N:10].[O:9]([H:17])[H:18]", "epd": [["Sigma-/Sigma+", [1, 15], [1, 13]], ["Sigma-/Sigma+", [8, 9], [8, 12]], ["Pi-/Pi+", [8, 9], [8, 12]], ["Pi-/Sigma+", [13, 14], [14, 15]], ["Sigma-/Sigma+", [12, 17], [9, 17]], ["Sigma-/Sigma+", [12, 18], [9, 18]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH2:2]1[CH2:9][CH2:4][NH:15][C:7]2=[N:18][CH2:3][CH2:10][CH2:14][N:13]12.[cH:1]1[cH:5][cH:16][c:12]([N+:8](=[CH2:11])[CH3:19])[cH:17][cH:6]1>>[cH:1]1[cH:5][cH:16][c:12]([N:8]([CH2:11][N:18]2[CH2:3][CH2:10][CH2:14][N+:13]3=[C:7]2[NH:15][CH2:4][CH2:9][CH2:2]3)[CH3:19])[cH:17][cH:6]1", "epd": [["LP-/Pi+", [13], [7, 13]], ["Pi-/Sigma+", [18, 7], [18, 11]], ["Pi-/LP+", [11, 8], [8]]]}
